US05763437
A mixture of 2-acetoxymethyl-3-acetylpyridine (1.03 g) and 6N aqueous hydrochloric acid (30 ml) was heated for 3 hours at ca. 100° C. After cooling to room temperature, the mixture was concentrated in vacuo. The residue was taken up with saturated sodium carbonate aqueous solution and extracted with chloroform. The extract was dried over sodium sulfate, filtered and concentrated in vacuo to give 3-acetyl-2-hydroxymethylpyridine (0.81 g) as a brown oil.

reactant | 2-acetoxymethyl-3-acetylpyridine | 1.03 g | C(C)(=O)OCC1=NC=CC=C1C(C)=O | C10H11NO3
solvent | hydrochloric acid | 6N, 30 ml | Cl | ClH
product | 3-acetyl-2-hydroxymethylpyridine | 0.81 g | C(C)(=O)C=1C(=NC=CC1)CO | C8H9NO2
